US04496590
5-Chloro-2-(4-methoxyphenylamino)benzoic acid [X; R=5-Cl, OR°=4-OCH3, R"=H] was prepared from 2,5-dichlorobenzoic acid and p-methoxyaniline according to the procedure of Example 1A, part (a), and obtained as a light green solid, m.p. 188°-189° C.

reactant | 2,5-dichlorobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | p-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 5-Chloro-2-(4-methoxyphenylamino)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC=C(C=C1)OC | C14H12ClNO3
